*Circuito t2 Natural Solution

*Guardar correntes
.options savecurrents

*Resistências
R1 1 2 1.04005394176k;
R2 2 3 2.07146823978k;
R3 2 5 3.06015694112k; terminais fixos
R4 GND 5 4.13750728298k;
R5 5 6 3.13205467735k;
R6 9 7 2.01065636997k; terminais fixos
R7 7 8 1.00318758033k;

*Fontes Independentes
Vs 1 GND 0V
V0 GND 9 0V; terminais fixos

*Fontes Dependentes
Hd 5 8 V0 8.3495605781k;
Gb 6 3 (2,5) 7.04881622155m;

*Condensador
C1 6 8 1.03830911265u

.ic V(6)=8.55467 V(8)=0

.control

*Simulação
*op

tran 1e-4 20e-3
plot V(6)

*quit
.endc

.end
